US07544835B2
Dimethyl 2-[3-(2-{[(2-chloroanilino)carbonyl]-oxy}ethyl)-4-methoxybenzyl]malonate
Using dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate and 2-chlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate | OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C15H20O6
reactant | 2-chlorophenylisocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | Dimethyl 2-[3-(2-{[(2-chloroanilino)carbonyl]-oxy}ethyl)-4-methoxybenzyl]malonate | ClC1=C(NC(=O)OCCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2OC)C=CC=C1 | C22H24ClNO7
